US07109354B2
b) (5-Amino-pentyl)-phosphonic acid diethyl ester
[5-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pentyl]-phosphonic acid diethyl ester (0.300 g, 0.849 mmol) was dissolved in THF [2 mL], IPA [4 mL]. Hydrazine (0.081 g, 2.540 mmol) was added to this solution and stirred at room temperature for 18 hours. The white precipitate was filtered and washed with dichloromethane. Removal of the solvent in vacuo yielded the title compound (0.136 g, 72%) 1H-NMR (CDCl3): δ 4.07 (m, 4H), 2.68 (t, 2H, J=6.74 Hz), 1.72 (m, 2H), 1.60 (m, 2H), 1.43 (m, 4H), 1.31 (m, 6H).

reactant | [5-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pentyl]-phosphonic acid diethyl ester | 0.849 mmol, 0.300 g | C(C)OP(OCC)(=O)CCCCCN1C(C2=CC=CC=C2C1=O)=O | C17H24NO5P
reactant | IPA | 4 mL | CC(C)O | C3H8O
reactant | Hydrazine | 2.540 mmol, 0.081 g | NN | H4N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (5-Amino-pentyl)-phosphonic acid diethyl ester | 0.136 g, 72% | C(C)OP(OCC)(=O)CCCCCN | C9H22NO3P
